US06949648B2
N,N-Dimethyl-N-[3-methyl-1-(2-pyridinyl)-1H-pyrazolo[3,4-b]quinolin-4-yl]amine
4-Chloro-3-methyl-1-(2-pyridinyl)-1H-pyrazolo[3,4-b]quinoline (1.00 g, 3.39 mmol) was added to a 2M dimethylamine tetrahydrofuran (5.00 mL, 10.0 mmol) solution, and the mixture was heated at 100° C. overnight in a sealed tube. The reaction mixture was cooled to room temperature and poured into water, and organic matter was extracted with ethyl acetate. The extract was washed with saturated brine and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The residue thus obtained was purified by silica gel column chromatography (ethyl acetate to ethyl acetate:methanol=9:1) to give the title compound (1.00 g, 97% yield).

reactant | 4-Chloro-3-methyl-1-(2-pyridinyl)-1H-pyrazolo[3,4-b]quinoline | 3.39 mmol, 1.00 g | ClC1=C2C(=NC3=CC=CC=C13)N(N=C2C)C2=NC=CC=C2 | C16H11ClN4
reactant | dimethylamine tetrahydrofuran | 10.0 mmol, 2M, 5.00 mL | O1CCCC1.CNC
solvent | water | O | H2O
product | N,N-Dimethyl-N-[3-methyl-1-(2-pyridinyl)-1H-pyrazolo[3,4-b]quinolin-4-yl]amine | 1.00 g, 97% yield | CN(C1=C2C(=NC3=CC=CC=C13)N(N=C2C)C2=NC=CC=C2)C | C18H17N5
